US06969710B2
N-{4-(1,4-diazepan-1-yl)-2-[(phenylsulfonyl)amino]phenyl}-5-fluoro-2-methylbenzenesulfonamide hydrochloride (Scheme 3)
The compound was synthesized from of N-{2-amino-5-(4-t-butyloxycarbonyl-1,4-diazepan-1-yl)-phenyl}benzenesulfonamide and 5-fluoro-2-methylbenzenesulfonylchloride (56 mg, 0.269 mmole) to give 7 mg as purple solid. M+1 519.3 Calcd 519.15. 1HNMR δ 7.78-7.18 (m, 8H), 6.72 (d, 1H), 6.45 (dd, 1H), 6.34 (d, 1H), 3.59 (app t, 2H), 3.38 (app t, 2H), 3.21 (app t, 2H), 3.13 (app t, 2H), 2.57 (s, 3H), 2.06-1.98 (m, 2H).

reactant | N-{2-amino-5-(4-t-butyloxycarbonyl-1,4-diazepan-1-yl)-phenyl}benzenesulfonamide | NC1=C(C=C(C=C1)N1CCN(CCC1)C(=O)OC(C)(C)C)NS(=O)(=O)C1=CC=CC=C1 | C22H30N4O4S
reactant | 5-fluoro-2-methylbenzenesulfonylchloride | 0.269 mmole, 56 mg | FC=1C=CC(=C(C1)S(=O)(=O)Cl)C | C7H6ClFO2S
product | N-{4-(1,4-diazepan-1-yl)-2-[(phenylsulfonyl)amino]phenyl}-5-fluoro-2-methylbenzenesulfonamide hydrochloride | Cl.N1(CCNCCC1)C1=CC(=C(C=C1)NS(=O)(=O)C1=C(C=CC(=C1)F)C)NS(=O)(=O)C1=CC=CC=C1 | InChI=1S/C24H27FN4O4S2.ClH/c1-18-8-9-19(25)16-24(18)35(32,33)27-22-11-10-20(29-14-5-12-26-13-15-29)17-23(22)28-34(30,31)21-6-3-2-4-7-21;/h2-4,6-11,16-17,26-28H,5,12-15H2,1H3;1H
